US07622486B2
Synthesis of (2-chloro-pyridin-4-yl)-(4-fluoro-3-methoxy-phenyl)-amine (B18)
2-Chloro-4-iodopyridine (340.4 mg, 1.42 mmol) was dissolved in anhydrous toluene (15 mL), after which 4-fluoro-3-methoxyaniline (241.4 mg, 1.7 mmol), tris(dibenzylidineacetone)dipalladium(0) (26.5 mg, 0.028 mmol), 1,3-bis(diphenylphosphino)propane (23 mg, 0.06 mmol), and sodium-tert-butoxide (191.9 mg, 2.0 mmol) were added to the solution. This reaction mixture was stirred at reflux for 12-18 hours, after which the reaction was diluted in dichloromethane and filtered through Celite™. The Celite™ was washed with dichloromethane, and the resulting solution was concentrated to afford the product. This solid was collected and dried for 12-18 hours under vacuum. Purification (Biotage Horizon HPFC chromatography system, SiO2, 90:9:1 dichloromethane:methanol:ammonium hydroxide) yielded a light brown solid (18, 169 mg, 47%); HPLC: Inertsil ODS-3V C18, 30:70[KH2PO4 (0.01M, pH 3.2): CH3CN], 264 nm, Rt 5.2 min, 93.6% purity.

reactant | 2-Chloro-4-iodopyridine | 1.42 mmol, 340.4 mg | ClC1=NC=CC(=C1)I | C5H3ClIN
reactant | 4-fluoro-3-methoxyaniline | 1.7 mmol, 241.4 mg | FC1=C(C=C(N)C=C1)OC | C7H8FNO
reactant | 1,3-bis(diphenylphosphino)propane | 0.06 mmol, 23 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | sodium-tert-butoxide | 2.0 mmol, 191.9 mg | CC(C)([O-])C.[Na+]
reactant | KH2PO4 | 0.01M, pH 3.2 | OP(=O)(O)[O-].[K+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | CH3CN | CC#N | C2H3N
product | (2-chloro-pyridin-4-yl)-(4-fluoro-3-methoxy-phenyl)-amine | ClC1=NC=CC(=C1)NC1=CC(=C(C=C1)F)OC | C12H10ClFN2O
